US05576323
4-(4-(4-phenylbutyl)phenoxy)glutamic acid (51)
A mixture of lithium hydroxide (0.072 g) in water (0.9 ml) and tetrahydrofuran (2.9 ml) was treated with methyl 3-[4-(4-phenylbutyl) phenoxy]-2-pyrrolidone-5-carboxylate (0.370 g), and heated to 60° C. After about 4.0 hours, the reaction mixture was allowed to cool to room temperature. After approximately 2.25 hours at room temperature, the reaction mixture was treated with 5N HCl (604 ml). The resulting biphasic solution was cooled to 5° C. for approximately 18 hours. The biphasic solution was treated with water (2 ml). The resulting milky solution was sonicated resulting in crystal formation. The crystals were collected by filtration, washed with 1:1 THF:water (10 ml), THF (10 ml), and water (10 ml). The crystals were then dried overnight in at vacuum oven at 60° C. to afford the title compound (106 mg).

reactant | lithium hydroxide | 0.072 g | [OH-].[Li+]
reactant | methyl 3-[4-(4-phenylbutyl) phenoxy]-2-pyrrolidone-5-carboxylate | 0.370 g | C1(=CC=CC=C1)CCCCC1=CC=C(OC2C(NC(C2)C(=O)OC)=O)C=C1 | C22H25NO4
reactant | HCl | 5N, 604 ml | Cl | ClH
solvent | water | 0.9 ml | O | H2O
solvent | tetrahydrofuran | 2.9 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 4-(4-(4-phenylbutyl)phenoxy)glutamic acid | 106 mg | C1(=CC=CC=C1)CCCCC1=CC=C(OC(C[C@H](N)C(=O)O)C(=O)O)C=C1 | C21H25NO5
